US04024082
To a suspension of 0.6 g of (+)-3-hydroxy-9-azamorphinan in 50 ml of Et2O and 20 ml of 20% NaOH aq. solution was added 1.0 g of cyclopropylcarbonyl chloride with stirring at room temperature. After stirring for 1 hr., the organic layer was washed (10% NaOH and then H2O), dried (K2CO3), and evaporated to give an oil, which was triturated with Et2O-pet. ether to form a solid. Recrystallization of this from Et2O afforded 0.5 g (53.5%) of (+)-N-cyclopropylcarbonyl-3-cyclopropylcarbonyloxy-9-azamorphinan as colorless plates; mp 144°-145.5.°.

reactant | (+)-3-hydroxy-9-azamorphinan | 0.6 g | OC=1C=CC=2CN3[C@@H]4CCCC[C@@]4(C2C1)CCN3 | C15H20N2O
reactant | cyclopropylcarbonyl chloride | 1.0 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | Et2O | 50 ml | CCOCC | C4H10O
solvent | NaOH | 20 ml | [OH-].[Na+]
product | (+)-N-cyclopropylcarbonyl-3-cyclopropylcarbonyloxy-9-azamorphinan | 0.5 g, 53.5% | C1(CC1)C(=O)N1N2[C@@H]3CCCC[C@@]3(C=3C=C(C=CC3C2)OC(=O)C2CC2)CC1 | C23H28N2O3
